US05663154
6-Cyclopropylmethoxy-9H-purine (0.50 g, 2.6 mmoles) and 2',3'-dideoxy-3'-fluorouridine (0.50 g, 2.2 mmoles) were suspended in 40 ml 10 mM potassium phosphate buffer, pH 7.0, containing 0.04% potassium azide. Purine nucleoside phosphorylase (1120 I.U.) and thymidine phosphorylase (10,000 I.U.) (Krenitsky, et al., Biochemistry, 20, 3615, 1981 and U.S. Pat. No. 4,381,344) immobilized on DEAE cellulose was added to the reaction and the suspension was stirred at 45° C. After 6 days, 150 ml MeOH was added to the reaction. The reaction was applied to a column containing AG1-X2 (OH-- form, 2.5×10 cm) and eluted with MeOH. Fractions containing product were pooled, concentrated, and flash chromatographed on silica gel (5×20 cm) with dichloromethane:acetone (9:1). Solvent was removed and lyophilization yielded 0.392 g of 6-cyclopropylmethoxy-9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-9H-purine (58%): mp 100° C.; TLC Rf 0.90 (silica gel, MeCN:15N NH4OH:H2O/ 85:5:10); [α]D20 -18.8 (c=0.5, DMF); UV λmax (ε×10-3) at pH 7, 251 (12.5); at pH 13, 149.5 (12.1); 1H NMR (400 MHz, DMSO-d6) δ8.59 and 8.50 (2s, 2H, H2 and H8), 6.46 (dd, 1H, H1', J=9.1 Hz, J=5.7 Hz), 5.44 (dd, 1H, H3', J=53.5 Hz, J=4.4 Hz), 5.23 (t, 1H, OH5', J=5.6 Hz), 4.37 (d, 2H, OCH2, J=7.4 Hz), 4.18-4.29 (m, 1H, H4'), 3.57-3.60 (m, 2H, H5' and H5"), 2.92-3.10 and 2.65-2.75 (2m, 2H, H2' and H2"), and 1.25-1.35, 0.55-0.60, and 0.36-0.40 (3m, 5H, cyclopropyl); MS (ci)309 (M+1), 289 (M-F), 191 (MH2 --C5H8FO2).

reactant | 6-Cyclopropylmethoxy-9H-purine | 2.6 mmoles, 0.50 g | C1(CC1)COC1=C2N=CNC2=NC=N1 | C9H10N4O
reactant | 2',3'-dideoxy-3'-fluorouridine | 2.2 mmoles, 0.50 g | F[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O4
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | potassium phosphate | 10 mM, 40 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | MeOH | 150 ml | CO | CH4O
product | 6-cyclopropylmethoxy-9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-9H-purine | 0.392 g, 58% | C1(CC1)COC1=C2N=CN(C2=NC=N1)[C@H]1C[C@@H]([C@H](O1)CO)F | C14H17FN4O3
